US04670604
A solution of 1.5 ml of oxalic acid monomethyl ester chloride in 10 ml of methylene chloride is added dropwise to a solution of 3.5 g of 3-(3-bromopropoxy)-aniline and 1.3 ml of pyridine in 40 ml of methylene chloride in the course of 10 minutes. After stirring at room temperature for 2 hours, the mixture is poured onto water and extracted with methylene chloride. The combined extracts are evaporated and the residue is chromatographed on silica gel with methylene chloride/ethyl acetate (10:1). The eluate is evaporated and the residue is crystallised from ether/hexane. Methyl N-[3-(3-bromopropoxy)-phenyl]-oxamate of melting point 90°-91° is obtained.

reactant | oxalic acid monomethyl ester chloride | 1.5 ml | [Cl-].COC(C(=O)O)=O
reactant | 3-(3-bromopropoxy)-aniline | 3.5 g | BrCCCOC=1C=C(N)C=CC1 | C9H12BrNO
reactant | pyridine | 1.3 ml | N1=CC=CC=C1 | C5H5N
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 40 ml | C(Cl)Cl | CH2Cl2
product | Methyl N-[3-(3-bromopropoxy)-phenyl]-oxamate | BrCCCOC=1C=C(C=CC1)NC(C(=O)OC)=O | C12H14BrNO4
